US06555556B1
Ethyl 2-[N-[4-(1-t-Butoxycarbonylpiperidin-4-yloxy)phenyl]-N-[3-(3-cyanophenyl)-2-(E)-propenyl]amino]propionate
To a solution of 3-[3-[N-[4-(1-t-butoxycarbonylpiperidin-4-yloxy)phenyl]amino]-1-(E)-propenyl]benzonitrile (1200 mg) in N,N-dimethylformamide (20 ml) were added potassium carbonate (1710 mg) and ethyl 2-bromopropionate (1.5 ml). The mixture was stirred at 100° C. for 12 hours. After addition of water, the reaction mixture was extracted with ethyl acetate. The extract was washed with brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=2/1 as an eluant to give the desired compound (882 mg, yield 60%) as a yellow oil.

reactant | 3-[3-[N-[4-(1-t-butoxycarbonylpiperidin-4-yloxy)phenyl]amino]-1-(E)-propenyl]benzonitrile | 1200 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)NC/C=C/C=1C=C(C#N)C=CC1 | C26H31N3O3
reactant | potassium carbonate | 1710 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromopropionate | 1.5 ml | BrC(C(=O)OCC)C | C5H9BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-[N-[4-(1-t-Butoxycarbonylpiperidin-4-yloxy)phenyl]-N-[3-(3-cyanophenyl)-2-(E)-propenyl]amino]propionate | 882 mg, yield 60% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(C\C=C\C1=CC(=CC=C1)C#N)C(C(=O)OCC)C | C31H39N3O5
